US04837357
101 g (1.25 mol) of 37% strength aqueous formaldehyde solution and 99 g (1.37 mol) of isobutyraldehyde were mixed at 40° C. under nitrogen with 4.2 g (0.03 mol) of 40% strength aqueous trimethylamine solution by stirring. The temperature of the mixture rose to 93° to 94° in the course of from 15 to 20 minutes. The mixture was stirred at that temperature for a further 10 minutes, and the trimethylamine, excess isobutyraldehyde and 58 g of water were then distilled off under reduced pressure. The remaining solution of hydroxypivalinaldehyde was then cooled down to 60° C., and 1.9 g (0.025 mol) of finely pulverulent calcium hydroxide were then added with vigorous stirring. After the exothermic reaction had ceased and a further, short period of stirring, 2.5 g (0.054 mol) of 100% strength formic acid were added at 70° C., and the mixture was stirred 70° C. for 10 minutes. The aqueous phase was then separated off, and the organic phase was subjected to fractional distillation. 110 g (0.54 mol) were isolated of 2,2-dimethyl-1,3-propanediol hydroxypivalate, corresponding to 86.5% of theory, based on starting formaldehyde.

reactant | formaldehyde | C=O | CH2O
reactant | isobutyraldehyde | 1.37 mol, 99 g | C(C(C)C)=O | C4H8O
reactant | trimethylamine | CN(C)C | C3H9N
solvent | formic acid | C(=O)O | CH2O2
product | 2,2-dimethyl-1,3-propanediol hydroxypivalate | OCC(C(=O)OCC(CO)(C)C)(C)C | C10H20O4
